US06130187
Preparation of 3-(4-chloro-2-ethyl-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 3)
0.50 g (1.3 mmol) of 3-(4-chloro-2-ethyl-6-fluorobenzofuran-7-yl)-6-trifluoromethyluracil and 0.30 g (2.3 mmol) of potassium carbonate, were suspended in 20 ml of N,N-dimethylformamide, and 0.23 g (1.6 mmol) of methyl iodide was dropwise added thereto under cooling with ice. After stirring at room temperature for 3 hours, the reaction solution was poured into water and extracted with ethyl acetate. The organic layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography to obtain 0.48 g (yield: 92%) of the desired product as white crystals. Melting point: 142-143° C.

reactant | 3-(4-chloro-2-ethyl-6-fluorobenzofuran-7-yl)-6-trifluoromethyluracil | 1.3 mmol, 0.50 g | ClC1=CC(=C(C2=C1C=C(O2)CC)N2C(NC(=CC2=O)C(F)(F)F)=O)F | C15H9ClF4N2O3
reactant | potassium carbonate | 2.3 mmol, 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.6 mmol, 0.23 g | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-(4-chloro-2-ethyl-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 0.48 g, yield: 92% | ClC1=CC(=C(C2=C1C=C(O2)CC)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C16H11ClF4N2O3
